US06420418B1
2-Tetrahydropyranoic Acid
To a vigorously stirred solution of tetrahydropyran-2-methanol (2.32 g, 40 mmol) in a mixture of CH3CN (20 ml), CCl4 (20 ml) and water (10 ml) at 0° C. was added NaIO4 (9.42 g, 44 mmol) and then RuCl3H2O(414 mg, 2 mmol). After 20 min, the cooling bath was removed. After 40 min at room temperature, TLC showed reaction was complete. The reaction mixture was partitioned into ethyl acetate and ice-cold Na2S2O5 solution. More Na2S2O5 was added until all the brown material dissolved and a greenish mixture was obtained. The aqueous portion was extracted with more ethyl acetate and combined layer was washed with 10% Na2S2O5, H2O, brine, dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography using methylene chloride/methanol/acetic acid=95:5:0.5 to afford the product as an oil (1.5 g).

reactant | tetrahydropyran-2-methanol | 40 mmol, 2.32 g | O1C(CCCC1)CO | C6H12O2
reactant | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | 10 ml | O | H2O
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 2-Tetrahydropyranoic Acid | 1.5 g | O1C(CCCC1)C(=O)O | C6H10O3
